US06967196B1
4-chloro-N-[2,5-dichlorophenyl]-N-[4-(aminosulfonyl)-1(R)-methylbutyl]-benzenesulfonamide was prepared analogous to 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide by reacting (4R)-4-[2,5-dichlorophenyl][4-chlorophenyl)sulfonyl]amino]pentylsulfonyl chloride with ammonia. Yield=41%; MS (ESI+), 485 (M+H)+.

reactant | 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NC)C)C1=C(C=CC(=C1)Cl)Cl | C18H21Cl3N2O4S2
reactant | pentylsulfonyl chloride | C(CCCC)S(=O)(=O)Cl | C5H11ClO2S
reactant | ammonia | N | H3N
product | 4-chloro-N-[2,5-dichlorophenyl]-N-[4-(aminosulfonyl)-1(R)-methylbutyl]-benzenesulfonamide | Yield=41% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)N)C)C1=C(C=CC(=C1)Cl)Cl | C17H19Cl3N2O4S2
